data/oMe_Silver.jsonl
{"reaction_id": "NR-204_2-c3cncc(c3)_3-C(C(F)(F)F)C(F)(F)F","level": "hard","name": "Nenitzescu Indole Synthesis","reactants_smiles": ["O=C1C=CC(=O)C=C1","C=C(N([H])c3cncc(c3))C(=O)OC(C(F)(F)F)C(F)(F)F"],"products_smiles": ["C1=C(O)C=CC2=C1C(C(=O)C(C(F)(F)F)C(F)(F)F)=CN(c3cncc(c3))2"],"conditions": "Acetic acid","mechanism_step_nums": 7,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1=C(C=CC(C1C(C(C2=CC=CC=C2)=[NH+](c3cncc(c3)))C(=O)O(C(C(F)(F)F)C(F)(F)F))=O)O","step_weight": 0,"rationale": "The β-aminocrotonate enamine acts as a nucleophile, attacking the electrophilic β-carbon of 1,4-benzoquinone due to strong conjugation and electron withdrawal by the carbonyl groups."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1=C(C=CC(C1C(=C(C2=CC=CC=C2)[NH](c3cncc(c3)))C(=O)O(C(C(F)(F)F)C(F)(F)F))=O)O","step_weight": 0,"rationale": "Proton transfer stabilizes the adduct by neutralizing charge and preparing the intermediate for intramolecular cyclization under acidic conditions."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1=C(C=CC3(C1C(=C(C2=CC=CC=C2)N3(c3cncc(c3)))C(=O)O(C(C(F)(F)F)C(F)(F)F))O)O","step_weight": 0,"rationale": "The amine nitrogen attacks the carbonyl carbon intramolecularly, favored by proximity and the electrophilicity enhanced by conjugation and acid activation."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1=C(C=CC3(C1C(=C(C2=CC=CC=C2)N3(c3cncc(c3)))C(=O)O(C(C(F)(F)F)C(F)(F)F))[OH2+])O","step_weight": 0,"rationale": "Protonation of the hydroxyl group creates a good leaving group, facilitating subsequent elimination to form the indole ring system."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C1=C(C=CC3(C1C(=C(C2=CC=CC=C2)[N+]=3(c3cncc(c3)))C(=O)O(C(C(F)(F)F)C(F)(F)F)))O","step_weight": 0,"rationale": "Loss of water occurs because the protonated hydroxyl is an excellent leaving group, driving formation of the iminium intermediate and partial ring aromatization."},{"step": 6,"type": "elimination","subtype": "proton_elimination","intermediate_smiles": "C1=C(C=CC3(=C1C(=C(C2=CC=CC=C2)N3(c3cncc(c3)))C(=O)O(C(C(F)(F)F)C(F)(F)F)))O","step_weight": 0,"rationale": "Deprotonation restores full aromaticity of the indole core, a thermodynamically favorable step that completes the synthesis."}],"description": "Under acidic conditions, the β-aminocrotonate undergoes Michael addition to 1,4-benzoquinone, forming a conjugated adduct. Subsequent intramolecular nucleophilic attack and proton transfers enable cyclization to the indole core, followed by elimination steps to restore aromaticity and yield the 5-hydroxyindole product."}
